US07291631B2
Using General Procedure B: Reaction of methyl-[4-(5,6,7,8-tetrahydro-quinolin-8-ylamino)-butyl]-carbamic acid tert-butyl ester, 3,5-dimethyl-pyridine-2-carbaldehyde and NaBH(OAc)3 in CH2Cl2 gave {4-[(3,5-Dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino}-butyl}-methyl-carbamic acid tert-butyl ester as a yellow oil. 1H NMR (CDCl3) δ 1.20-1.29 (m, 4H), 1.41 (s, 9H), 1.60-1.65 (m, 1H), 1.86 (s, 3H), 1.93-2.00 (m, 3H), 2.25 (s, 3H), 2.38 (s, 3H), 2.45-2.890 (m, 7H), 2.96-3.04 (m, 2H), 3.94-4.05 (m, 3H), 7.01 (dd, 1H, J=7.6, 4.6 Hz), 7.19 (s, 1H), 7.30 (d, 1H, J=7.8 Hz), 8.15 (s, 1H), 8.45 (d, 1H, J=3.8 Hz). Conversion to the HBr salt according to General Procedure D gave COMPOUND 370 as a white solid. 1H NMR (D2O) δ 1.39-1.49 (m, 4H), 1.78-1.85 (m, 1H), 2.03-2.21 (m, 2H), 2.40-2.55 (m, 8H), 2.62 (s, 3H), 2.71-2.80 (m, 1H), 2.86-2.91 (m, 2H), 3.00-3.04 (m, 2H), 4.13 (d, 1H, J=17.7 Hz), 4.38 (d, 1H, J=17.8 Hz), 4.47-4.51 (m, 1H), 7.84-7.89 (m, 1H), 8.21 (s, 1H), 8.35 (d, 1H, J=7.9 Hz), 8.46 (s, 1H), 8.60 (d, 1H, J=5.7 Hz); 13C NMR (D2O) δ 19.41, 19.92, 22.88, 23.03, 26.19, 27.77, 30.23, 35.44, 51.34, 54.26, 63.52, 128.25, 138.90, 139.74, 140.04, 141.74, 143.13, 150.52, 151.24, 151.60, 153.54; ES-MS m/z 353 (M+H). Anal Calcd. For C22H32N4.4.3(HBr).3.3(H2O).0.5(C4H10O): C, 36.17; H, 6.06; N, 7.03; Br, 43.11. Found: C, 36.31; H, 5.93; N, 6.95; Br, 42.84.

reactant | methyl-[4-(5,6,7,8-tetrahydro-quinolin-8-ylamino)-butyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCCCNC1CCCC=2C=CC=NC12)C)=O | C19H31N3O2
reactant | 3,5-dimethyl-pyridine-2-carbaldehyde | CC=1C(=NC=C(C1)C)C=O | C8H9NO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | {4-[(3,5-Dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino}-butyl}-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCCCN(C1CCCC=2C=CC=NC12)CC1=NC=C(C=C1C)C)=O | C27H40N4O2
